US07786129B2
7-Chloro-3-{4-[4-(3-chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 7-chloro-3-(4-chlorobutyl)-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one and 1-(3-chlorophenyl)-piperazine.

reactant | 7-chloro-3-(4-chlorobutyl)-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one | ClC=1C=C(C=C2C(C(NC12)=O)(CC)CCCCCl)F | C14H16Cl2FNO
reactant | 1-(3-chlorophenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 7-Chloro-3-{4-[4-(3-chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C(C=C2C(C(NC12)=O)(CC)CCCCN1CCN(CC1)C1=CC(=CC=C1)Cl)F | InChI=1S/C24H28Cl2FN3O.ClH/c1-2-24(20-15-18(27)16-21(26)22(20)28-23(24)31)8-3-4-9-29-10-12-30(13-11-29)19-7-5-6-17(25)14-19;/h5-7,14-16H,2-4,8-13H2,1H3,(H,28,31);1H
